US07851473B2
4-{3-[4-(Aminocarbonyl)piperidin-1-yl]-1,2,4-thiadiazol-5-yl}-N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide
A solution of 1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidine-4-carboxylic acid (70.0 mg, 0.153 mmol), 1-hydroxybenzotriazole (23.4 mg, 0.153 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (44.1 mg, 0.230 mmol) in N,N-dimethylformamide (2 ml) was stirred at room temperature for 1 hour. 25% Ammonia water (33.8 mg, 0.497 mmol) was added thereto under ice-cooling, and the resulting mixture was stirred at room temperature for 0.5 hour. The reaction mixture was poured to water, and a solid was separated by filtration, which was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to give 52.3 mg (74.9%) of the desired product as a solid.

reactant | 1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidine-4-carboxylic acid | 0.153 mmol, 70.0 mg | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCC(CC2)C(=O)O | C20H23N7O4S
reactant | 1-hydroxybenzotriazole | 0.153 mmol, 23.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.230 mmol, 44.1 mg | Cl.CN(CCCN=C=NCC)C
reactant | Ammonia water | 0.497 mmol, 33.8 mg | O.N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-{3-[4-(Aminocarbonyl)piperidin-1-yl]-1,2,4-thiadiazol-5-yl}-N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide | 52.3 mg, 74.9% | NC(=O)C1CCN(CC1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=NOC2=C1C=CC=C2 | C20H24N8O3S
